US07846929B2
A mixture of methanesulfonic acid 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-prop-2-ynyl ester (150 mg), potassium carbonate (64 mg), N-methylpiperazine (45 μL) and acetonitrile (5 ml) were stirred at 50° C. for 3 hours. The reaction mixture was then cooled, diluted with dichloromethane, washed with brine, dried (MgSO4) and the solvents reduced in vacuo to yield 2-chloro-6-[3-(4-methyl-piperazin-1-yl)-prop-1-ynyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (101 mg).

reactant | methanesulfonic acid 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-prop-2-ynyl ester | 150 mg | ClC=1N=C(C2=C(N1)C=C(S2)C#CCOS(=O)(=O)C)N2CCOCC2 | C14H14ClN3O4S2
reactant | potassium carbonate | 64 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpiperazine | 45 μL | CN1CCNCC1 | C5H12N2
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-chloro-6-[3-(4-methyl-piperazin-1-yl)-prop-1-ynyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 101 mg | ClC=1N=C(C2=C(N1)C=C(S2)C#CCN2CCN(CC2)C)N2CCOCC2 | C18H22ClN5OS
